US09145415B2
To a solution of 2-chloro-5-iodo-6-methyl-N-propylpyrimidin-4-amine (T2, 150 mg) in N,N-dimethylformamide (3 mL), N-(4-pentynyl)phthalimide (133 mg), bis(triphenylphosphine)palladium(II) dichloride (34 mg), copper(I) iodide (18 mg) and triethylamine (334 μL) were added at room temperature, and the mixture was stirred at 45° C. for 1 hour under a nitrogen atmosphere. The reaction mixture was cooled to room temperature, and then saturated aqueous ammonium chloride and ethyl acetate were added to the reaction mixture. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 90 to 70% hexane in ethyl acetate) to obtain 2-(5-(2-chloro-4-methyl-6-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (T3, 131 mg).

reactant | 2-chloro-5-iodo-6-methyl-N-propylpyrimidin-4-amine | 150 mg | ClC1=NC(=C(C(=N1)NCCC)I)C | C8H11ClIN3
reactant | N-(4-pentynyl)phthalimide | 133 mg | C(CCC#C)N1C(C=2C(C1=O)=CC=CC2)=O | C13H11NO2
reactant | triethylamine | 334 μL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 34 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 18 mg | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-(2-chloro-4-methyl-6-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | 131 mg | ClC1=NC(=C(C(=N1)C)C#CCCCN1C(C2=CC=CC=C2C1=O)=O)NCCC | C21H21ClN4O2
